US07700655B2
(1) 2-Amino-4-(2,5-difluorophenyl)thiazole
Using 2′,5′-difluoroacetophenone and thiourea as the raw materials, the same operation as the Example 395(1) gave the title compound.

reactant | 2′,5′-difluoroacetophenone | FC1=C(C=C(C=C1)F)C(C)=O | C8H6F2O
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-Amino-4-(2,5-difluorophenyl)thiazole | Yield: 77.8% | NC=1SC=C(N1)C1=C(C=CC(=C1)F)F | C9H6F2N2S
